US07786165B2
To a solution of ethyl 4-aminobenzoate (10.0 g, 59.3 mmol) and triethylamine (18.4 mL, 130 mmol) in acetic acid (30 mL) was slowly added dropwise bromine (3.04 mL, 59.3 mmol) under stirring at room temperature. The reaction mixture was stirred at room temperature for 2 hr and cold water (400 mL) was added. The precipitated solid was collected by filtration, washed with cold water and vacuum dried to give crude ethyl 4-amino-3-bromobenzoate (15.0 g) as red-pink crystals. The obtained crystals were dissolved in ethyl acetate (60 mL), and 4 M hydrogen chloride/ethyl acetate solution was added. The precipitated solid was collected by filtration, washed with a mixed solvent (1:1) of ethyl acetate-diethyl ether, and vacuum dried to give a mixture (8.99 g) of ethyl 4-aminobenzoate hydrochloride and ethyl 4-amino-3-bromobenzoate hydrochloride as colorless crystals. Successively, to a solution of the obtained mixture (1.00 g) in pyridine (12 mL) were added acetic anhydride (0.69 mL, 7.13 mmol) and 4-dimethylaminopyridine (catalytic amount) with stirring at room temperature, and the mixture was stirred overnight at the same temperature. The reaction solution was concentrated under reduced pressure, brine was added to the residue, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate=9/1-hexane/ethyl acetate=1/1) to give the title compound (758 mg, yield 40%, 3 steps) as colorless crystals.

reactant | ethyl 4-aminobenzoate | 59.3 mmol, 10.0 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | triethylamine | 130 mmol, 18.4 mL | C(C)N(CC)CC | C6H15N
reactant | bromine | 59.3 mmol, 3.04 mL | BrBr | Br2
reactant | water | 400 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | ethyl 4-amino-3-bromobenzoate | 15.0 g | NC1=C(C=C(C(=O)OCC)C=C1)Br | C9H10BrNO2
